US05962462
Step B: N-(3-(tert-butyldimethylsilyloxy)-2-phenylpropyl)-N-methylbenzenesulfonamide
Diethyl azodicarboxylate (0.059 mL, 65 mg, 0.37 mmol) was added to a solution of 2-phenyl-3-(tert-butyldimethylsilyloxy)-1-propanol (100 mg, 0.375 mmol), N-methylbenzenesulfonamide (77 mg, 0.45 mmol), and triphenylphosphine (98.4 mg, 0.38 mmol) in 1.0 mL of dry THEF, and the mixture was stirred 4 h at room temperature. Additional triphenylphosphine (48 mg, 0.18 mmol) and diethyl azodicarboxylate (0.030 mL, 33 mg, 0.19 mmol) were added and stirring was continued overnight at room temperature. After concentrating in vacuo, the residue was dissolved in 50 mL of dichloromethane and washed with 25 mL of 10% aqueous sodium hydroxide and 25 mL of brine. The organic layer was dried over sodium sulfate, decanted, and concentrated. The residue was purified by flash column chromatography on silica gel, eluting with 5% ethyl ether in hexane to give 83 mg of the title compound as a colorless syrup. 1NMR (400 MHz, CDCl3): δ 7.73 (d, 2H, J=7 Hz), 7.57 (tt, 1H, J=7, 1 Hz), 7.49 (t, 2H, J=7 Hz), 7.33-7.20 (m, 5H), 3.84 (dd, 1H, J=10, 6 Hz), 3.77 (dd, 1H, J=10, 6 Hz), 3.48 (dd, 1H, J=13, 7 Hz), 3.20 (dd, 1H, J=13, 8 Hz), 3.08 (quintet, 1H, J=7 Hz), 2.64 (s, 3H), 0.84 (s, 9H),-0.05 (s, 3H),-0.06 (s, 3H). Mass spectrum (ESI): m/z=420 (M+1).

reactant | Diethyl azodicarboxylate | 0.37 mmol, 0.059 mL, 65 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-phenyl-3-(tert-butyldimethylsilyloxy)-1-propanol | 0.375 mmol, 100 mg | C1(=CC=CC=C1)C(CO)CO[Si](C)(C)C(C)(C)C | C15H26O2Si
reactant | N-methylbenzenesulfonamide | 0.45 mmol, 77 mg | CNS(=O)(=O)C1=CC=CC=C1 | C7H9NO2S
reactant | triphenylphosphine | 0.38 mmol, 98.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.18 mmol, 48 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.19 mmol, 0.030 mL, 33 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | N-(3-(tert-butyldimethylsilyloxy)-2-phenylpropyl)-N-methylbenzenesulfonamide | 83 mg | [Si](C)(C)(C(C)(C)C)OCC(CN(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C22H33NO3SSi
